US07427612B2
1-{4-[4-(2-Fluoro-5-nitro-benzoyl)-piperazin-1-yl]-phenyl}-ethanone
The title compound was prepared according to the procedure described for example K step 2 from 4′-piperazino-acetophenone and 2-fluoro-5-nitrobenzoic acid (16%, yellow solid, MS (m/e): 372.1 (M+H, 100%)

reactant | 4′-piperazino-acetophenone | N1(CCNCC1)C1=CC=C(C=C1)C(C)=O | C12H16N2O
reactant | 2-fluoro-5-nitrobenzoic acid | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
product | 1-{4-[4-(2-Fluoro-5-nitro-benzoyl)-piperazin-1-yl]-phenyl}-ethanone | FC1=C(C(=O)N2CCN(CC2)C2=CC=C(C=C2)C(C)=O)C=C(C=C1)[N+](=O)[O-] | C19H18FN3O4
